US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-diethylamino-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with Diethyl-(1-methyl-1,2,3,4-tetrahydro-isoquinolin-7-yl)-amine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | Diethyl-(1-methyl-1,2,3,4-tetrahydro-isoquinolin-7-yl)-amine | C(C)N(C1=CC=C2CCNC(C2=C1)C)CC | C14H22N2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-diethylamino-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC(=CC=C1CC2)N(CC)CC)C | C21H24BrN5O
